US07981893B2
SYNTHESIS OF 6-(1H-BENZO[D]IMIDAZOL-5-YL)-1-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE
tert-Butyl 5-bromo-1H-benzo[d]imidazole-2-carboxylate. A solution of 5-bromo-1H-benzimidazole (1.06 g, 5.38 mmol), di-tert-butyl dicarbonate (1.3 g, 5.91 mmol), triethylamine (0.9 mL, 6.45 mmol) and dimethylaminopyridine (few crystals) in anhydrous tetrahydrofuran (15 mL) was allowed to stir at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the crude product was purified by Biotage chromatography (0-55% ethyl acetate in hexanes) to provide the desired product (0.85 g, 54%) as a white solid. MS (ESI) m/z 297.3 [M+1]+.

reactant | tert-Butyl 5-bromo-1H-benzo[d]imidazole-2-carboxylate | BrC1=CC2=C(NC(=N2)C(=O)OC(C)(C)C)C=C1 | C12H13BrN2O2
reactant | 5-bromo-1H-benzimidazole | 5.38 mmol, 1.06 g | BrC1=CC2=C(NC=N2)C=C1 | C7H5BrN2
reactant | di-tert-butyl dicarbonate | 5.91 mmol, 1.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.45 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6-(1H-BENZO[D]IMIDAZOL-5-YL)-1-((TETRAHYDRO-2H-PYRAN-4-YL)METHYL)-1H-IMIDAZO[4,5-B]PYRAZIN-2(3H)-ONE | 0.85 g, 54% | N1C=NC2=C1C=CC(=C2)C2=CN=C1C(=N2)N(C(N1)=O)CC1CCOCC1 | C18H18N6O2
